US08735579B2
N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-4-methyl-3-[6-(1-methyl-piperidin-4-ylmethyl)-pyrimidin-4-yloxy]-benzamide
40 μl Paraformaldehyde (37% in water) and 30 mg palladium on activated charcoal (10%) are added to 260 mg N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-4-methyl-3-(6-piperidin-4-ylmethyl-pyrimidin-4-yloxy)-benzamide in 10 ml of methanol and the reaction mixture is hydrogenated at ambient temperature and a partial hydrogen pressure of 4 bar. After the uptake of hydrogen has ended the catalyst is suction filtered and the filtrate is evaporated down. The flask residue is chromatographed on aluminium oxide with dichloromethane/methanol (99:1→95:5) as eluant.

reactant | Paraformaldehyde | 40 μl | C=O | CH2O
reactant | N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-4-methyl-3-(6-piperidin-4-ylmethyl-pyrimidin-4-yloxy)-benzamide | 260 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)OC1=NC=NC(=C1)CC1CCNCC1)=O)OC)NS(=O)(=O)C | C30H39N5O5S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated charcoal | 30 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-4-methyl-3-[6-(1-methyl-piperidin-4-ylmethyl)-pyrimidin-4-yloxy]-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)OC1=NC=NC(=C1)CC1CCN(CC1)C)=O)OC)NS(=O)(=O)C | C31H41N5O5S
